US08232300B2
4-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)sulfamoyl]benzoic acid
5,6,6a,7,8,9-Hexahydro-4H-2-phenalenylamine (0.130 g) was dissolved in pyridine (5 ml) and anhydrous benzene (2 ml), the solution was added with 4-chlorosulfonylbenzoic acid (0.161 g) and 4-dimethylaminopyridine (one pellet), and the mixture was stirred overnight at room temperature. The reaction mixture was made to be at 60° C., stirred for 3 hours, left to cool, then added with 2 N aqueous hydrochloric acid and thereby made acidic, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from ethyl acetate-n-hexane to obtain the title compound (0.194 g, yield: 75%) as brown needles (melting point: 266-268° C.).

reactant | 5,6,6a,7,8,9-Hexahydro-4H-2-phenalenylamine | 0.130 g | C1=C(C=C2CCCC3CCCC1=C23)N | C13H17N
reactant | benzene | 2 ml | C1=CC=CC=C1 | C6H6
reactant | 4-chlorosulfonylbenzoic acid | 0.161 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)sulfamoyl]benzoic acid | 0.194 g, yield: 75% | C1=C(C=C2CCCC3CCCC1=C23)NS(=O)(=O)C2=CC=C(C(=O)O)C=C2 | C20H21NO4S
